US05468867
A suspension of sodium hydride (34.1 g, 1.42 mol) in 300 mL of DMF was stirred in an ice/methanol bath and a solution of 3-indolecarboxylic acid (55.0 g, 0,374 mol) in 250 mL DMF was added dropwise over 45 minutes. The mixture was stirred for 30 minutes and then 100 mL of additional DMF was added. The mixture was cooled to 0° C. and 1-iodobutane (8.79 g, 40.8 mL, 0.359 mol) was added. The mixture was stirred for approximately 12 hours. The mixture was then poured in 2.0 L of ice water, acidified with 1N hydrochloric acid, extracted 3 times with ethyl acetate, washed twice with water and then dried over magnesium sulfate. The mixture was concentrated and the residue mixed with diethylether. Filtration gave 1-butylindole-3-carboxylic acid (62.74 g, 0.309 mol) as a white powder.

reactant | sodium hydride | 1.42 mol, 34.1 g | [H-].[Na+]
reactant | 3-indolecarboxylic acid | 0,374 mol, 55.0 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1-iodobutane | 0.359 mol, 40.8 mL, 8.79 g | ICCCC | C4H9I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-butylindole-3-carboxylic acid | 0.309 mol, 62.74 g | C(CCC)N1C=C(C2=CC=CC=C12)C(=O)O | C13H15NO2
